US08703767B2
14. Preparation of N-(3-(6-((4-(4-methylpiperazin-1-yl)phenyl)amino)1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide
2,2,2-Trifluoroacetic acid (0.15 mL, 1.86 mmol) was added to a solution of N-(3-(6-((4-(4-methylpiperazin-1-yl)phenyl)amino)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide (10 mg, 0.018 mmol) in CH2Cl2 (4 mL) and the reaction mixture was stirred for 16 h at room temperature, after which the solvent was removed in vacuo. The residue was purified by flash chromatography (6% CH3OH/CH2Cl2) to yield the title compound as an off white solid. 1H NMR (400 MHz, CD3OD): δ 8.67 (s, 1H), 8.31 (s, 1H), 7.99 (d, 1H, J=7.6 Hz), 7.75 (m, 3H), 7.54 (m, 1H), 6.99 (m, 2H), 6.46 (m, 2H), 5.81 (dd, 1H, J=2.4 Hz and 9.6 Hz), 3.17 (m, 4H), 2.64 (m, 4H), 2.35 (s, 3H); ESI-MS: 455.27 [M+H]+.

reactant | 2,2,2-Trifluoroacetic acid | 1.86 mmol, 0.15 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(3-(6-((4-(4-methylpiperazin-1-yl)phenyl)amino)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide | 0.018 mmol, 10 mg | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NC(=C2C(=N1)N(N=C2)C2OCCCC2)C=2C=C(C=CC2)NC(C=C)=O | C30H34N8O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(6-((4-(4-methylpiperazin-1-yl)phenyl)amino)1H-pyrazolo[3,4-d]pyrimidin-4-yl)phenyl)acrylamide | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NC(=C2C(=N1)NN=C2)C=2C=C(C=CC2)NC(C=C)=O | C25H26N8O
